US06307087B1
1,1-Bis(4-methylphenyl)-3-methyl-2-butanone.
An oven-dried Schlenk tube was cooled under an argon purge and charged with Pd2(dba)3 (13.7 mg, 0.015 mmol, 3 mol % Pd), 2 (14.1 mg, 0.036 mmol, 3.6 mol %), and NaOtBu (211 mg, 2.2 mmol). The flask was purged with argon, and toluene (3 mL) was added with stirring. The flask was then charged with 4-chlorotoluene (0.24 mL, 2.0 mmol), 3-methyl-2-butanone (0.105 mL, 1.0 mmol), and additional toluene (3 mL). The reaction mixture was stirred at room temperature for 2 min, then heated to 80° C. with stirring for 22 h at which time GC analysis showed the starting aryl chloride had been completely consumed. The reaction mixture was cooled to room temperature, quenched with saturated aqueous NH4Cl (5 mL), diluted with ether (20 mL), and poured into a separatory funnel. The layers were separated and the aqueous phase was extracted with ether (10 mL). The combined organic fractions were dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The crude material was purified by flash chromatography on silica gel to give 210 mg (79%) of a white solid: mp 48-51° C.; 1H NMR (300 MHz, CDCl3) δ 7.00-7.18 (m, 8H), 5.22 (s, 1H), 2.79 (p, 1H, J=6.8 Hz), 2.31 (s, 6H), 1.10 (d, 6H, J=6.8 Hz); 13C NMR (125 MHz, CDCl3) δ 212.3, 136.6, 135.8, 129.24, 129.16, 128.9, 128.7, 61.4, 40.7, 21.0, 18.6; IR (neat, cm−1) 2972, 1718, 1513, 1038, 803. Anal Calcd for C14H20O: C, 85.67; H, 8.32. Found: C, 86.02; H, 8.59.

reactant | NaOtBu | 2.2 mmol, 211 mg | CC(C)(C)[O-].[Na+]
reactant | 4-chlorotoluene | 2.0 mmol, 0.24 mL | ClC1=CC=C(C=C1)C | C7H7Cl
reactant | 3-methyl-2-butanone | 1.0 mmol, 0.105 mL | CC(C(C)=O)C | C5H10O
reactant | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.015 mmol, 13.7 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1,1-Bis(4-methylphenyl)-3-methyl-2-butanone | 210 mg, 79% | CC1=CC=C(C=C1)C(C(C(C)C)=O)C1=CC=C(C=C1)C | C19H22O
